US05739351
17.5 g of p-toluenesulphonyl chloride are added to a solution of 12.4 g of (3aRS,6SR,7aSR)-6-hydroxymethyl-2-tert-butyloxycarbonylperhydroisoindol-4-one and 12.9 cm3 of triethylamine in 250 cm3 of dichloromethane. The mixture is stirred at room temperature for 20 hours, washed with 200 cm3 of water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is chromatographed on a silica gel column (diameter 7 cm, particle size 0.06-0.20 mm, height 70 cm), eluting under a pressure of 0.7 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (60:40 by volume) and collecting fractions of 250 cm3. Evaporation to dryness of fractions 16 to 24 under reduced pressure (2.7 kPa) gives 12.6 g of (3aRS,6SR, 7aSR)-2- tert-butyloxycarbonyl-6-tosyloxymethylperhydroisoindol-4-one in the form of an oil.

reactant | p-toluenesulphonyl chloride | 17.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (3aRS,6SR,7aSR)-6-hydroxymethyl-2-tert-butyloxycarbonylperhydroisoindol-4-one | 12.4 g | OCC1CC(C2CN(CC2C1)C(=O)OC(C)(C)C)=O | C14H23NO4
reactant | triethylamine | 12.9 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 cm3 | ClCCl | CH2Cl2
product | (3aRS,6SR, 7aSR)-2- tert-butyloxycarbonyl-6-tosyloxymethylperhydroisoindol-4-one | 12.6 g | C(C)(C)(C)OC(=O)N1CC2CC(CC(C2C1)=O)COS(=O)(=O)C1=CC=C(C)C=C1 | C21H29NO6S
